US09447035B2
Step 2: Preparation of 1-[4-azidobutyl]cyclopentanecarboxylic acid methyl ester:
The title compound was prepared using a similar procedure as described in Example 1, Step 2, starting from 1-[4-bromobutyl]cyclopentanecarboxylic acid methyl ester and sodium azide.

reactant | 1-[4-bromobutyl]cyclopentanecarboxylic acid methyl ester | COC(=O)C1(CCCC1)CCCCBr | C11H19BrO2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | 1-[4-azidobutyl]cyclopentanecarboxylic acid methyl ester | COC(=O)C1(CCCC1)CCCCN=[N+]=[N-] | C11H19N3O2
